US09303035B2
Step 5: 11-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-phenyl-7,8,10,11-tetrahydropyrimido[4′,5′:3,4]pyrrolo[1,2-d][1,4]oxazepine-2,4(1H,3H)-dione
6-(2-(2-(4-Chlorothiazol-2-yl)-2-hydroxyethoxy)ethyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (300 mg, 0.651 mmol), and triethylamine (0.272 mL, 1.953 mmol) were dissolved in DCM (10 mL) and Tf2O (0.165 mL, 0.976 mmol) was added in a single portion. The mixture was stirred at room temp. for 15 mins and further triethylamine (0.272 mL, 1.953 mmol) and Tf2O (0.165 mL, 0.976 mmol) were added. After 45 mins, further triethylamine (0.272 mL, 1.953 mmol) and Tf2O (0.165 mL, 0.976 mmol) were added. After stirring for a further 45 mins, the reaction was quenched with sat. NaHCO3(aq) and extracted with DCM (3×). The combined organic phases were passed through a hydrophobic frit and evaporated under vacuum. The residue was redissolved in DCM and evaporated onto silica. The silica was deposited onto a 10 g silica cartridge and the system gradient-eluted from 10-80% EtOAc/hexane. The product fractions were combined and evaporated. The resulting residue was triturated with DCM/Et2O/hexane and the precipitate collected by filtration to afford the title compound as a pale yellow solid;

reactant | 6-(2-(2-(4-Chlorothiazol-2-yl)-2-hydroxyethoxy)ethyl)-1,3-dimethyl-5-phenyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.651 mmol, 300 mg | ClC=1N=C(SC1)C(COCCN1C=C2N(C(N(C(C2=C1C1=CC=CC=C1)=O)C)=O)C)O | C21H21ClN4O4S
reactant | triethylamine | 1.953 mmol, 0.272 mL | C(C)N(CC)CC | C6H15N
reactant | Tf2O | 0.976 mmol, 0.165 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 1.953 mmol, 0.272 mL | C(C)N(CC)CC | C6H15N
reactant | Tf2O | 0.976 mmol, 0.165 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 1.953 mmol, 0.272 mL | C(C)N(CC)CC | C6H15N
reactant | Tf2O | 0.976 mmol, 0.165 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 11-(4-Chlorothiazol-2-yl)-1,3-dimethyl-5-phenyl-7,8,10,11-tetrahydropyrimido[4′,5′:3,4]pyrrolo[1,2-d][1,4]oxazepine-2,4(1H,3H)-dione | ClC=1N=C(SC1)C1C=2N(CCOC1)C(=C1C2N(C(N(C1=O)C)=O)C)C1=CC=CC=C1 | C21H19ClN4O3S
